US05753657
The procedure is performed as in Example 28, but starting with 3 g of 5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one, 60 ml of dimethyl sulphoxide, 0.96 g of 80% sodium hydride and 3.18 g of 4-quinolincarboxaldehyde. After treating with water and acetic acid, the suspension obtained is filtered and the solid thus isolated is washed with 2×30 ml of water and then 4×30 ml of acetone and dried at 100° C. under vacuum (2 mmHg; 0.26 kPa). 3.9 g of 10-(4-quinolylmethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one are obtained, in the form of an orange solid melting above 260° C. (Analysis % calculated C: 76.23, H: 3.89, N: 15.46, O: 4.41, % found C: 75.9, H: 4.2, N: 15.4).

reactant | 5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 3 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | dimethyl sulphoxide | 60 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 4-quinolincarboxaldehyde | 3.18 g | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 10-(4-quinolylmethylene)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 3.9 g | N1=CC=C(C2=CC=CC=C12)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C23H14N4O
